US05492802
5-(pyrrol-1-yl)-2-methylbenzoxazole
5-Amino-2-methylbenzoxazole (30.0 g, 0,203 mol) and 2,5-dimethoxytetrahydrofuran (30.0 g, 0.227 mol) were combined with 90 mL of acetic acid and the solution was heated at reflux for 1 hr. The mixture was evaporated to a red slurry and mixed with hexane to give a dark solid. The solid was dissolved in methylene chloride and extracted with basic water. The organic phase was removed, dried, and evaporated to a brown solid. Recrystallization from hexane/heptane afforded 18 g (45% yield) of product, m.p. 115°-121° C.

reactant | 5-Amino-2-methylbenzoxazole | 0,203 mol, 30.0 g | NC=1C=CC2=C(N=C(O2)C)C1 | C8H8N2O
reactant | 2,5-dimethoxytetrahydrofuran | 0.227 mol, 30.0 g | COC1OC(CC1)OC | C6H12O3
reactant | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(pyrrol-1-yl)-2-methylbenzoxazole | 18 g, 45% yield | N1(C=CC=C1)C=1C=CC2=C(N=C(O2)C)C1 | C12H10N2O
